US08461328B2
A 20-L reactor equipped with a mechanical stirrer was charged with (S)-tert-butyl 1,5-dihydroxypentan-2-ylcarbamate (950 g, 4.33 mol), Ph3P (2272 g, 8.66 mol) and DCM (10 L). Then DIAD (1751 g, 8.66 mol) was added dropwise to the reaction solution. The solution was stirred for 48 h at room temperature until the reaction was complete. After filtration and concentration in vacuo, the residue was purified by column chromatography with petroleum ether as eluent to give 550 g of (S)-tert-butyl tetrahydro-2H-pyran-3-ylcarbamate as white solid. 1H NMR (400 MHz, CDCl3) δ 4.77 (m, 1H), 3.78 (d, J=11.1 Hz, 1H), 3.63 (d, J=8.8 Hz, 3H), 3.38 (m, 1H), 1.88 (td, J=8.4, 3.8 Hz, 1H), 1.74 (ddd, J=10.4, 9.1, 4.9 Hz, 1H), 1.65-1.51 (m, 2H), 1.45 (s, 9H).

reactant | (S)-tert-butyl 1,5-dihydroxypentan-2-ylcarbamate | 4.33 mol, 950 g | OC[C@H](CCCO)NC(OC(C)(C)C)=O | C10H21NO4
reactant | Ph3P | 8.66 mol, 2272 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 8.66 mol, 1751 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 10 L | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl tetrahydro-2H-pyran-3-ylcarbamate | 550 g | O1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H19NO3
